US04230850
4-(3'-Morpholinobutoxy)-3-phenyl-coumarin
Prepared according to the method of Example 8 from 4-hydroxy-3-phenyl-coumarin and 3-morpholino-1-chlorobutane. An oil is obtained which cannot be crystallised. Yield 72.5%.

reactant | 4-hydroxy-3-phenyl-coumarin | OC1=C(C(OC2=CC=CC=C12)=O)C1=CC=CC=C1 | C15H10O3
reactant | 3-morpholino-1-chlorobutane | O1CCN(CC1)C(CCCl)C | C8H16ClNO
product | 4-(3'-Morpholinobutoxy)-3-phenyl-coumarin | Yield 72.5% | O1CCN(CC1)C(CCOC1=C(C(OC2=CC=CC=C12)=O)C1=CC=CC=C1)C | C23H25NO4
